US06949542B2
[2-{3-[3-(2,5-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (281 mg, 0.75 mmol) and 3-[3-(2,5-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K17) (244 mg, 0.75 mmol) according to the general procedure M. Obtained as an off-white solid (300 mg, 64%).

reactant | [2-amino-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 281 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)N)=O | C14H16F6N2O3
reactant | 3-[3-(2,5-dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 244 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1C)C)=O | C20H23NO3
product | [2-{3-[3-(2,5-Dimethyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1C)C)=O)=O | C30H29F6N3O5
